US06355680B1
In the manner described in example 3, 2-bromophenylacetic acid is condensed with 2,5-difluoroaniline to yield 2-[(2,5-difluorophenyl)amino]phenylacetic acid.

reactant | 2-bromophenylacetic acid | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | 2,5-difluoroaniline | FC1=C(N)C=C(C=C1)F | C6H5F2N
product | 2-[(2,5-difluorophenyl)amino]phenylacetic acid | FC1=C(C=C(C=C1)F)NC1=C(C=CC=C1)CC(=O)O | C14H11F2NO2
